data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_390472_0,[C:1]([C:6]([C:2]([H:17])([H:18])[H:19])=[C:4]([N:3]([C:5]([N:7]([H:12])[H:13])=[O:9])[H:11])[O:8][H:10])([H:14])([H:15])[H:16]>>[C:1]([C:6]([C:2]([H:17])([H:18])[H:19])(/[C:4](=[N:3]\[H:11])[O:8][H:10])[C:5]([N:7]([H:12])[H:13])=[O:9])([H:14])([H:15])[H:16],68.2682349999574
MR_173185_1,[C:1]([C:6]([C:3]([H:16])([H:17])[H:18])=[O:9])([O:8]/[C:5]([C:2]([H:13])([H:14])[H:15])=[C:7](\[C:4]([H:19])([H:20])[H:21])[H:12])([H:10])[H:11]>>[C:1]1([H:10])([H:11])[C@@:5]([C:2]([H:13])([H:14])[H:15])([C@:7]([C:4]([H:19])([H:20])[H:21])([C:6]([C:3]([H:16])([H:17])[H:18])=[O:9])[H:12])[O:8]1,68.64661750000081
MR_273562_0,[C:1]([C:2]([N:6]([H:16])[H:17])([N:7]([H:18])[H:19])[N:8]([H:9])[H:20])([N:3]([H:10])[H:11])([N:4]([H:12])[H:13])[N:5]([H:14])[H:15]>>[C:1]([C:2]([N:5]([H:14])[H:15])([N:6]([H:16])[H:17])[N:8]([H:9])[H:20])([N:3]([H:10])[H:11])([N:4]([H:12])[H:13])[N:7]([H:18])[H:19],72.30557000000118
MR_277092_0,[C:1]1([O:6][H:8])([H:9])[C:4](=[O:7])[C:3]([H:12])([H:13])[C:2]([H:10])([H:11])[O:5]1>>[C:1]([C:4](=[O:7])[H:11])([O:5][C:2](=[C:3]([H:12])[H:13])[H:10])([O:6][H:8])[H:9],72.08343499999131
MR_575961_1,[C:1]([C:3]([C:2]([N:4]([H:10])[H:11])=[O:7])([C:5](=[O:8])[H:12])[O:6][H:9])([H:13])([H:14])[H:15]>>[C:1](/[C:3](=[C:2](\[N:4]([H:10])[H:11])[O:7][H:9])[O:6][C:5](=[O:8])[H:12])([H:13])([H:14])[H:15],49.74568999999562
MR_138306_1,[C:1]([C:4]([N:2]([C:3]([O:6][H:9])=[O:7])[N:5]([H:10])[H:11])=[O:8])([H:12])([H:13])[H:14]>>[C:1](/[C:4](=[N:2]/[N:5]([H:10])[H:11])[O:8][C:3]([O:6][H:9])=[O:7])([H:12])([H:13])[H:14],40.05269749999897
MR_20894_0,[C:1]([C:2](=[O:4])[H:8])([O:3][H:5])([H:6])[H:7]>>[C:1]([C:2](=[O:4])[H:7])([O:3][H:5])([H:6])[H:8],69.63681249999766
MR_613978_0,[C:1]([C:2]([C:6](=[C:7]([H:17])[H:18])[H:16])=[O:9])(/[C:3]([N:4]([H:11])[H:12])=[C:5](\[O:8][H:10])[H:13])([H:14])[H:15]>>[C:1]1([H:15])=[C:3]([N:4]([H:11])[H:12])[C:5]([O:8][H:10])([H:13])[C:6]([C:7]([H:14])([H:17])[H:18])([H:16])[C:2]1=[O:9],61.65124749997048
MR_427242_0,[C:1]([C:4]([C:2]([H:15])([H:16])[H:17])=[O:9])([C:5](=[C:3]([O:6][H:11])[O:7][H:10])[H:14])([O:8][H:12])[H:13]>>[C:1](=[C:5](\[C:3]([C:4]([C:2]([H:15])([H:16])[H:17])=[O:9])([O:6][H:11])[O:7][H:10])[H:14])(\[O:8][H:12])[H:13],70.53288250001813
MR_595856_1,[C:1](/[C:4]([N:3](/[C:7](=[N:9]\[H:13])[H:14])[O:8][H:10])=[C:5](/[C:2]([H:18])([H:19])[H:20])[N:6]([H:11])[H:12])([H:15])([H:16])[H:17]>>[C:1](/[C:4](=[N:3]\[O:8][H:10])[C:5]([C:2]([H:18])([H:19])[H:20])([N:6]([H:11])[H:12])/[C:7](=[N:9]\[H:13])[H:14])([H:15])([H:16])[H:17],53.67007499996788
MR_163330_1,[C:1]([C:3]([O:4][N:2]([H:9])[H:10])([O:6][H:7])[H:11])(=[O:5])[H:8]>>[C:1]1([O:5][H:7])([H:8])[C:3]([O:4][N:2]([H:9])[H:10])([H:11])[O:6]1,51.05653749996762
MR_219165_0,[C:1]([C:4]([C:2]([H:11])([H:12])[H:14])=[N:7][C:3](=[C:5]([H:15])[H:16])[O:6][H:8])([H:9])([H:10])[H:13]>>[C:1]([C:4]1([C:2]([H:11])([H:12])[H:14])[C:5]([H:15])([H:16])[C:3]([O:6][H:8])=[N:7]1)([H:9])([H:10])[H:13],37.30738500001039
MR_123403_0,[C:1]([C:2]([C:5](=[O:6])[H:7])([H:13])[H:14])([N:3]([H:8])[H:11])([N:4]([H:9])[H:10])[H:12]>>[C:1](\[C:2]([C:5]([O:6][H:9])([H:7])[H:12])([H:13])[H:14])([N:3]([H:8])[H:11])=[N:4]/[H:10],46.77322249997417
MR_309550_0,[C:1]([N:3](/[C:4]([C:2]([H:13])([H:14])[H:15])=[N:6]/[H:9])[N:5]([H:7])[H:8])([H:10])([H:11])[H:12]>>[C:1]([C:4]([C:2]([H:13])([H:14])[H:15])(/[N:3]=[N:5]/[H:7])[N:6]([H:8])[H:9])([H:10])([H:11])[H:12],57.230510000002965
MR_653764_0,[C:1](/[C:5](=[C:4](/[O:7][H:10])[N:9]=[C:6]([C:2]([H:15])([H:16])[H:19])[C:3]([H:17])([H:18])[H:20])[O:8][H:11])([H:12])([H:13])[H:14]>>[C:1]([C:5]1([O:8][H:11])[C:4]([O:7][H:10])=[N:9][C:6]1([C:2]([H:15])([H:16])[H:19])[C:3]([H:17])([H:18])[H:20])([H:12])([H:13])[H:14],31.485439999977984
MR_537003_0,[N:1]([C:2](=[C:3]([H:9])[H:10])[H:8])([O:4][H:7])[N:5]=[O:6]>>[N:1]([O:4][H:7])[N:5][O:6][C:2](=[C:3]([H:9])[H:10])[H:8],58.59281249998773
MR_382353_0,[C:1]([C:2]([N:5]([H:10])[H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([C:4]([O:6][H:8])=[O:7])[H:9]>>[C:1](/[C:2](=[N:5]/[H:11])[H:12])([C:3]([H:14])([H:15])[H:16])([C:4]([O:6][H:8])([O:7][H:10])[H:13])[H:9],69.47868250000454
MR_597442_0,[C:1]([N:2]([C:3]([O:5][H:9])=[O:8])/[C:4]([O:6][H:10])=[N:7]/[H:11])([H:12])([H:13])[H:14]>>[C:1](/[N:2]=[C:4](\[O:6][H:10])[N:7]([C:3]([O:5][H:9])=[O:8])[H:11])([H:12])([H:13])[H:14],43.19145249999295
MR_573282_0,[C@@:1]([N:4]([C:2]([H:14])([H:15])[H:19])[C:3]([H:16])([H:17])[H:18])([C:6]([N:8][N:5]([H:11])[H:12])[H:13])([O:7][H:9])[H:10]>>[C@:1]1([O:7][H:9])([H:10])[C@:6]([N:4]([C:2]([H:14])([H:15])[H:19])[C:3]([H:16])([H:17])[H:18])([H:13])[N:8]1[N:5]([H:11])[H:12],37.06516999997987
MR_264766_2,[C@@:1]([C:2](/[C:6](=[C:5](\[O:7][H:9])[H:14])[H:17])([H:15])[H:16])([N:3]([H:11])[H:12])([C:4](=[O:8])[H:13])[H:10]>>[C@@:1]1([N:3]([H:11])[H:12])([H:10])[C:2]([H:15])([H:16])[C@:6]1([C@:5]([C:4](=[O:8])[H:13])([O:7][H:9])[H:14])[H:17],71.25262499998442
